US07713994B2
(4Z)-6-Bromo-4-({[4-(4-methylpiperazin-1-yl)phenyl]amino}methylene)-1,4-dihydroisoquinolin-3(2H)-one
A toluene solution (0.75 mL) of 6-bromo-4-[(dimethylamino)methylene]-1,4-dihydroisoquinolin-3(2H)-one (60 mg, 0.213 mmol) and 4-(N-methylpiperazinyl)aniline (42.9 mg, 0.224 mmol) is heated at 110° C. for 3 h. It is dried up and triturated with ether and hexane to yield 23 mg (25%) of the title compound as a light-brown solid.

reactant | 6-bromo-4-[(dimethylamino)methylene]-1,4-dihydroisoquinolin-3(2H)-one | 0.213 mmol, 60 mg | BrC=1C=C2C(C(NCC2=CC1)=O)=CN(C)C | C12H13BrN2O
reactant | 4-(N-methylpiperazinyl)aniline | 0.224 mmol, 42.9 mg | CN1C(CNCC1)C1=CC=C(N)C=C1 | C11H17N3
solvent | toluene | 0.75 mL | C1(=CC=CC=C1)C | C7H8
product | (4Z)-6-Bromo-4-({[4-(4-methylpiperazin-1-yl)phenyl]amino}methylene)-1,4-dihydroisoquinolin-3(2H)-one | 23 mg, 25% | BrC=1C=C2/C(/C(NCC2=CC1)=O)=C/NC1=CC=C(C=C1)N1CCN(CC1)C | C21H23BrN4O
